US07691882B2
5-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a solution of 5-ethynyl-pyridin-2-ylamine (10 mg, 85 μmol) described in Manufacturing Example 28-1-3 and 4-benzyloxy-phenyl-acetohydroximoyl chloride (70 mg, 0.25 mmol) described in Manufacturing Example 1-1-3 in tetrahydrofuran (2 mL) was added triethylamine (35 μL, 0.25 mmol) at room temperature, which was stirred for 3 hours and 40 minutes at room temperature. The reaction solution was partitioned into water and ethyl acetate at 0° C. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (1 mg, 3%) as a trifluoroacetic acid salt.

reactant | 5-ethynyl-pyridin-2-ylamine | 85 μmol, 10 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
reactant | 4-benzyloxy-phenyl-acetohydroximoyl chloride | 0.25 mmol, 70 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | triethylamine | 0.25 mmol, 35 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 1 mg, 3% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C=CC(=NC2)N)C=C1 | C22H19N3O2
